US08729068B2
To a mixture of 50.3 g of diethyl (4-nitrobenzyl)phosphonate and 500 mL of methanol was added dropwise a solution of sodium methylate in methanol (ca. 5 mol/L, 73.7 mL) under ice-cooling, followed by stirring for 30 minutes under ice-cooling. To the reaction mixture was added dropwise a mixture of 30.6 g of methyl 4-formylbenzoate and 300 mL of methanol for 1 hour under ice-cooling, followed by stirring at room temperature for 15 hours after the addition dropwise. The precipitate was collected by filtration to obtain 48.8 g of methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate as a yellow solid. EI: 283

reactant | diethyl (4-nitrobenzyl)phosphonate | 50.3 g | [N+](=O)([O-])C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16NO5P
reactant | sodium methylate | C[O-].[Na+]
reactant | methyl 4-formylbenzoate | 30.6 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | methanol | ca. 5 mol/L, 73.7 mL | CO | CH4O
solvent | methanol | 300 mL | CO | CH4O
solvent | methanol | 500 mL | CO | CH4O
product | methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate | 48.8 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C1=CC=C(C(=O)OC)C=C1 | C16H13NO4
